US05968819
A solution of trans-(4-aminomethyl-cyclohexylmethyl) carbamic acid tert-butyl ester (17 g) and ethyldiisopropylamine (14.41 ml) in N,N-dimethylformamide (350 ml) is cooled to 0° C. and treated with a solution of naphthalene-1-sulfonylchloride (15.9 g) in N,N-dimethylformamide (100 ml). The reaction is stirred at ambient temperature for 2 h, concentrated in vacuo. The residue is taken up in dichloromethane, washed with a 0.5 N HCl solution, a saturated aqueous sodium carbonate solution and water, dried and concentrated. Crystallization from hexanes-ethyl acetate gives trans-{4-[(naphthalene-1-sulfonylamino)-methyl]cyclohexylmethyl}-carbamic acid tert-butyl ester as a white powder, melting at 199-200° C. Rf (A1) 0.42.

reactant | trans-(4-aminomethyl-cyclohexylmethyl) carbamic acid tert-butyl ester | 17 g | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)CN)=O | C13H26N2O2
reactant | ethyldiisopropylamine | 14.41 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | naphthalene-1-sulfonylchloride | 15.9 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | N,N-dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | trans-{4-[(naphthalene-1-sulfonylamino)-methyl]cyclohexylmethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)CNS(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C23H32N2O4S
